US06599917B1
b) 3-[3-Benzyl-5-(2-pyridyl)-2-pyridyl]ethynyl-3-quinuclidinol
A mixture of 150 mg of 3-(3-benzyl-5-bromo-2-pyridyl)ethynyl-3-quinuclidinol, 150 mg of (2-pyridyl)tributyltin, 86 mg of tetrakis(triphenylphosphine)palladium(0) and 3.5 ml of toluene was heated under stirring in an oil bath kept at 110° C. for 2 hours in a nitrogen atmosphere. After cooling as it was, NH-silica gel was added to the reaction solution and the solvent was removed. The residue was subjected to NH-silica gel column chromatography using 2.5% methanol/ethyl acetate, to give 100 mg of the target compound.

reactant | 3-(3-benzyl-5-bromo-2-pyridyl)ethynyl-3-quinuclidinol | 150 mg | C(C1=CC=CC=C1)C=1C(=NC=C(C1)Br)C#CC1(CN2CCC1CC2)O | C21H21BrN2O
reactant | (2-pyridyl)tributyltin | 150 mg | N1=C(C=CC=C1)[Sn](CCCC)(CCCC)CCCC
catalyst | tetrakis(triphenylphosphine)palladium(0) | 86 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | toluene | 3.5 ml | C1(=CC=CC=C1)C | C7H8
product | 3-[3-Benzyl-5-(2-pyridyl)-2-pyridyl]ethynyl-3-quinuclidinol | 100 mg | C(C1=CC=CC=C1)C=1C(=NC=C(C1)C1=NC=CC=C1)C#CC1(CN2CCC1CC2)O | C26H25N3O
